US06037495
Synthesis of 2-(2-acetoxymethylphenyl)-2-methoxyiminoacetamide
A mixture of 2-(2-acetoxymethylphenyl)-2-hydroxyiminoacetamide (253 mg, E/Z≠65/35), potassium carbonate (177 mg), 95% dimethyl sulfate (148 mg) and acetone (4.0 ml) was stirred at room temperature for 4 hours. A few pieces of ice were added, and the mixture was stirred for 20 minutes. The reaction mixture was diluted with ethyl acetate, washed successively with water and saturated brine, and dried over anhydrous sodium sulfate. Evaporation of the solvent under reduced pressure gave the crude product. The crude product was purified by column chromatography on silica gel (ethyl acetate/hexane=2/1) to obtain the title compound (194 mg, E/Z≠79/21, yield: 72.4%).

reactant | 2-(2-acetoxymethylphenyl)-2-hydroxyiminoacetamide | 253 mg | C(C)(=O)OCC1=C(C=CC=C1)C(C(=O)N)=NO | C11H12N2O4
reactant | potassium carbonate | 177 mg | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl sulfate | 148 mg | S(=O)(=O)(OC)OC | C2H6O4S
reactant | acetone | 4.0 ml | CC(=O)C | C3H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(2-acetoxymethylphenyl)-2-methoxyiminoacetamide | 194 mg, yield: 72.4% | C(C)(=O)OCC1=C(C=CC=C1)C(C(=O)N)=NOC | C12H14N2O4
